US05283248
tert-Butyl 4-[2-(benzyloxy)-5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate (580 mg, 1.05 mmol) is treated with 33 percent hydrobromic acid in glacial acetic acid (5 ml). After 18 hours at room temperature the separated crystals are filtered off, washed with glacial acetic acid and recrystallized from methanol. The crystals are then dissolved in a water/ethanol mixture (2:1, 50 ml). The pH is adjusted to 8 using 1N sodium hydroxide solution, whereby white crystals separate. The crystals are filtered off, washed with water and dried in a high vacuum. There are obtained 417 mg (88%) of 2-(benzyloxy)-5-cyclopropyl-8-fluoro-7-(1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione.

reactant | tert-Butyl 4-[2-(benzyloxy)-5-cyclopropyl-8-fluoro-1,2,3,5-tetrahydro-1,3-dioxopyrimido[1,6-a]benzimidazol-7-yl]-1-piperazinecarboxylate | 1.05 mmol, 580 mg | C(C1=CC=CC=C1)ON1C(N2C(N(C3=C2C=C(C(=C3)N3CCN(CC3)C(=O)OC(C)(C)C)F)C3CC3)=CC1=O)=O | C29H32FN5O5
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-(benzyloxy)-5-cyclopropyl-8-fluoro-7-(1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione | 417 mg, 88% | C(C1=CC=CC=C1)ON1C(N2C(N(C3=C2C=C(C(=C3)N3CCNCC3)F)C3CC3)=CC1=O)=O | C24H24FN5O3
